US05423285
The strontium was placed in about 80 ml 2-methoxyethanol and reacted to produce strontium 2-methoxyethoxide and evolving hydrogen gas. The 2-ethylhexanoic acid was added, and the mixture stirred and heated to a maximum temperature of about 118° C. to produce strontium 2-ethylhexanoate and distill off all water. The bismuth 2-ethylhexanoate was combined with 50 ml xylenes, and the mixture stirred and heated to a maximum temperature of about 125° C. to distill off all water. The titanium isopropoxide was combined with about 50 ml 2-methoxyethanol, and the mixture was stirred and heated to a maximum temperature of about 116° C. to produce titanium 2-methoxyethoxide and distill off all isopropanol and water. The strontium 2-ethylhexanoate and bismuth 2-ethylhexanoate solutions were combined (total 90 ml) and stirred and heated to a maximum of about 125° C. to distill down to 50 ml. About 40 ml xylenes were added, and the mixture was stirred and heated to a maximum temperature of about 125° C. to distill down to 50 ml again. The titanium 2-methoxyethoxide was added, and the mixture was stirred and heated to a maximum temperature of about 125° C. to distill down to 60.0 ml with a concentration of 0.101 moles of SrBi4Ti4O15 per liter.

reactant | strontium | [Sr] | Sr
reactant | 2-methoxyethanol | about 80 ml | COCCO | C3H8O2
product | strontium 2-methoxyethoxide | COCC[O-].[Sr+2].COCC[O-] | InChI=1S/2C3H7O2.Sr/c2*1-5-3-2-4;/h2*2-3H2,1H3;/q2*-1;+2
